US04427589
9-Chloro-1,3-dimethyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepine 1/4 molar etherate
Dropwise 13.2 ml (18.5 mmol) of a 1.4 M ether solution of methyl lithium was added to a suspension of 1.7 g (8.9 mmol) of cuprous iodide in 50 mL of ether which was cooled to 0°. A solution of 0.8 g (2.2 mmol) of 1,9-dichloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepine in 30 mL of ether was added dropwise to the ether solution of lithium dimethylcuprate which was further cooled to -25°. The mixture was stirred at -25° for 1 hr, warmed to room temperature, diluted with water and saturated with hydrogen sulfide. The resulting precipitate was removed by filtration over celite and he filtrate was concentrated at reduced pressure. Purification of the residue by column chromatography (silica gel, 10 g; eluent, 20% ether in methylene chloride) gave an oil which was crystallized from a mixture of ether and petroleum ether to give off-white needles, mp 121°-124°.

reactant | methyl lithium | C[Li]
reactant | 1,9-dichloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepine | 2.2 mmol, 0.8 g | ClC1=NC(=NC=2CN=C(C3=C(C21)C=CC(=C3)Cl)C3=CC=CC=C3)C | C19H13Cl2N3
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | water | O | H2O
solvent | hydrogen sulfide | S | H2S
solvent | ether | 1.4 M | CCOCC | C4H10O
product | 9-Chloro-1,3-dimethyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepine | ClC1=CC2=C(C3=C(CN=C2C2=CC=CC=C2)N=C(N=C3C)C)C=C1 | C20H16ClN3
